.subckt sg13g2_a22oi_4 Y A1 A2 B1 B2 VDD VSS
XN0 net1 B2 VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 ad=5.624e-13 as=7.844e-13 pd=4.48e-06 ps=6.56e-06
XN1 Y B1 net1 VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 ad=5.624e-13 as=7.844e-13 pd=4.48e-06 ps=6.56e-06
XN2 net2 A2 VSS VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 ad=5.624e-13 as=7.844e-13 pd=4.48e-06 ps=6.56e-06
XN3 Y A1 net2 VSS sg13_lv_nmos w=2.96u l=130.00n ng=4 ad=5.624e-13 as=7.844e-13 pd=4.48e-06 ps=6.56e-06
XP0 Y B1 net3 VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 ad=8.512e-13 as=1.187e-12 pd=6e-06 ps=8.84e-06
XP1 Y B2 net3 VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 ad=8.512e-13 as=1.187e-12 pd=6e-06 ps=8.84e-06
XP2 net3 A2 VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 ad=8.512e-13 as=1.187e-12 pd=6e-06 ps=8.84e-06
XP3 net3 A1 VDD VDD sg13_lv_pmos w=4.48u l=130.00n ng=4 ad=8.512e-13 as=1.187e-12 pd=6e-06 ps=8.84e-06
.ends
